US05728835
4-Nitro-N-(3-methoxyphenyl)benzamide
Using m-anisidine (2.50 g, 15.0 mmol) and 4-nitrobenzoic acid (2.03 g, 16.5 mmol), the procedure of Reference Example 16 was repeated to obtain 3.80 g (93.2%) of the title compound in the form of light yellow needle crystals.

reactant | m-anisidine | 15.0 mmol, 2.50 g | COC1=CC(=CC=C1)N | C7H9NO
reactant | 4-nitrobenzoic acid | 16.5 mmol, 2.03 g | [N+](=O)([O-])C1=CC=C(C(=O)O)C=C1 | C7H5NO4
product | 4-Nitro-N-(3-methoxyphenyl)benzamide | 3.80 g, 93.2% | [N+](=O)([O-])C1=CC=C(C(=O)NC2=CC(=CC=C2)OC)C=C1 | C14H12N2O4
